US05744512
4-(2-Hydroxy-2-methylpropionyl)phenoxyacetamide (IIt)
75.0 g of 25% strength ammonia are added dropwise with stirring to 25.2 g (0.1 mol) of methyl 4-(2-hydroxy-2-methylpropionyl)phenoxyacetate (obtained by esterifying compound IIg using methanol) in 50 ml of dioxane.After being stirred for 2 hours, the mixture is evaporated to solidification. The crude product is recrystallized from hot water, 22.1 gof compound IIt of melting point 139° C. being obtained.

reactant | ammonia | N | H3N
reactant | methyl 4-(2-hydroxy-2-methylpropionyl)phenoxyacetate | 0.1 mol, 25.2 g | OC(C(=O)C1=CC=C(OCC(=O)OC)C=C1)(C)C | C13H16O5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Hydroxy-2-methylpropionyl)phenoxyacetamide | OC(C(=O)C1=CC=C(OCC(=O)N)C=C1)(C)C | C12H15NO4
